.include AND.sub
.include NOT.sub

.subckt decoder node_a0 node_a1 node_d0 node_d1 node_d2 node_d3 vdd gnd
X1 node_a0 node_a0_out vdd gnd NOT
X2 node_a1 node_a1_out vdd gnd NOT

X3 node_a0_out node_a1_out node_d0 vdd gnd AND
X4 node_a0 node_a1_out node_d1 vdd gnd AND
X5 node_a0_out node_a1 node_d2 vdd gnd AND
X6 node_a0 node_a1 node_d3 vdd gnd AND

* C1 node_out gnd 100f
.ends decoder